US06974815B2
NaI (1 g) was added to a solution of 4-Bromomethyl benzonitrile (12.9 g, 0.066 mol) and 1-(pyrrolidino-1-cyclohexene (10 g, 0.066 mol) in EtOH (150 ml). After 1 night at RT, the reaction mixture was poured into water (500 ml) and extracted twice with EtOAc. The organic phase was washed twice with water, dried over magnesium sulfate and concentrated to yield 4-[(2-oxocyclohexyl)methyl]-benzonitrile (7.06 g) as a yellow oil. 1H NMR (CDCl3): 7.60 (2H, d), 7.30 (2H, d), 3.25 (1H, dd), 2.7-2.2 (4H, m), 2.2-1.2 (6H, m).

reactant | NaI | 1 g | [Na+].[I-]
reactant | 4-Bromomethyl benzonitrile | 0.066 mol, 12.9 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | pyrrolidino-1-cyclohexene | 0.066 mol, 10 g | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | water | 500 ml | O | H2O
solvent | EtOH | 150 ml | CCO | C2H6O
product | 4-[(2-oxocyclohexyl)methyl]-benzonitrile | 7.06 g | O=C1C(CCCC1)CC1=CC=C(C#N)C=C1 | C14H15NO
